US09079866B2
racemic (1-{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}piperidin-3-yl)methanol
The title compound was prepared in a manner similar to that described in Example 448 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and racemic (1-((2-bromophenyl)sulfonyl)piperidin-3-yl)methanol. MS (ESI): mass calcd. for C22H23FN4O3S, 442.15; m/z found, 443.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.33 (d, J=8.7, 2H), 8.10-8.06 (m, 1H), 7.96 (m, 1H), 7.73-7.67 (m, 1H), 7.64-7.58 (m, 1H), 7.44-7.40 (m, 1H), 7.36-7.29 (m, 2H), 3.43-3.32 (m, 2H), 3.27-3.16 (m, 2H), 2.43-2.34 (m, 1H), 2.22-2.14 (m, 1H), 1.68-1.54 (m, 2H), 1.53-1.42 (m, 1H), 1.35-1.21 (m, 1H), 1.03-0.91 (m, 1H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | racemic (1-((2-bromophenyl)sulfonyl)piperidin-3-yl)methanol | BrC1=C(C=CC=C1)S(=O)(=O)N1CC(CCC1)CO | C12H16BrNO3S
product | racemic (1-{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}piperidin-3-yl)methanol | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)N1CC(CCC1)CO)F | C22H23FN4O3S
